US04268509
A mixture of methyl N-(2-acetamidopropyl)dithiocarbamate and methyl N-[1-(acetamidomethyl)ethyl]dithiocarbamate (100 g) in dioxane (300 ml) and a solution of sodium azide (41 g) in water (270 ml) were stirred for 4.5 hours under reflux. The reaction mixture was concentrated to half volume under reduced pressure, washed with diethyl ether and acidified with concentrated hydrochloric acid. The resulting precipitate was collected by filtration and washed with diethyl ether to give pale yellow powder of 1-[1-(acetamidomethyl)ethyl]-1H-tetrazole-5-thiol (26.32 g), mp 176° to 178° C.

reactant | methyl N-(2-acetamidopropyl)dithiocarbamate | C(C)(=O)NC(CNC(SC)=S)C | C7H14N2OS2
reactant | methyl N-[1-(acetamidomethyl)ethyl]dithiocarbamate | 100 g | C(C)(=O)NCC(C)NC(SC)=S | C7H14N2OS2
reactant | sodium azide | 41 g | [N-]=[N+]=[N-].[Na+]
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
solvent | water | 270 ml | O | H2O
product | 1-[1-(acetamidomethyl)ethyl]-1H-tetrazole-5-thiol | 26.32 g | C(C)(=O)NCC(C)N1N=NN=C1S | C6H11N5OS
